US05120748
4-(3-Chloropropylthio)pyridine
A mixture of 4-mercaptopyridine (5.0 g), 1-bromo-3-chloropropane (14.2 g), and anhydrous potassium carbonate in 250 mL acetone is refluxed under nitrogen for 1 hour. The mixture is cooled, filtered and concentrated. The residue is taken up into diethyl ether and washed with brine, dried over magnesium sulfate and evaporated in vacuo. The crude product is purified by column chromatography (silica; hexane: ethyl acetate, 50:50) to give the title compound (7.34 g) as a colorless oil which is used directly in further transformations.

reactant | 4-mercaptopyridine | 5.0 g | SC1=CC=NC=C1 | C5H5NS
reactant | 1-bromo-3-chloropropane | 14.2 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 4-(3-Chloropropylthio)pyridine | 7.34 g | ClCCCSC1=CC=NC=C1 | C8H10ClNS
